US04150137
To a solution of 5.4 g of 2-(4-isobutylphenyl)propionic acid chloride and 3.5 g of p-methylbenzyl alcohol in 30 ml of tetrahydrofuran was added 3.7 g of trimethylamine, dropwise under cooling, and reacted at room temperature for 2 hours. After the reaction was complete, the crystals produced were removed by filtration. The filtrate was freed of solvent by distillation to leave a residue, to which was added water. The resulting mixture was extracted with ether, and the extract was dehydrated and freed of solvent by distillation to give an oily residue. This residue was then distilled in vacuo to yield 6.3 g of 2-(4-isobutylphenyl)propionic acid-p-methylbenzyl ester as a colorless oil, boiling at 139°-140° C./0.1 mmHg. Mass spectrum: parent ion 310 m/e.

reactant | 2-(4-isobutylphenyl)propionic acid chloride | 5.4 g | C(C(C)C)C1=CC=C(C=C1)C(C(=O)Cl)C | C13H17ClO
reactant | p-methylbenzyl alcohol | 3.5 g | CC1=CC=C(CO)C=C1 | C8H10O
reactant | trimethylamine | 3.7 g | CN(C)C | C3H9N
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(4-isobutylphenyl)propionic acid-p-methylbenzyl ester | 6.3 g | CC1=CC=C(COC(C(C)C2=CC=C(C=C2)CC(C)C)=O)C=C1 | C21H26O2
